2112-04-11 07:30:00 Physician Resident Progress Note
Chief Complaint:  hypoxia, nausea, dysuria
   24 Hour Events:
   Pt. admitted to SICU.  Fentanyl patch removed, pt. given naloxone which
   caused her to wake up, however once this wore off, she continued to be
   somewhat sleepy.
 INDWELLING PORT (PORTACATH) - START [**2112-4-11**] 06:49 AM
   husband states patient has a port a cath on the right neck area.
   Allergies:
   Sulfa (Sulfonamides)
   Nausea/Vomiting
   Ciprofloxacin
   Nausea/Vomiting
   Methylparaben
   Rash;
   Shellfish
   Nausea/Vomiting
   Paba (Oral) (Aminobenzoic Acid (B Vit))
   Rash;
   Omeprazole
   Headache; migra
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2112-4-11**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-11**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 76 (58 - 76) bpm
   BP: 137/64(69) {137/58(69) - 149/69(89)} mmHg
   RR: 15 (10 - 16) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
             1,683 mL
   PO:
             TF:
   IVF:
   683 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,683 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: 7.33/63/73.[**Numeric Identifier 218**]/31/4
   Physical Examination
   Gen:  sleepy, arousable
   Pulm: decreased, no wheezes
   Abd:  soft, nondistended, mild TTP lower quadrants
   Peripheral Vascular: clubbing present, pulses intact
   Neurologic: Responds to voice, arousable, but sleepy, somewhat weaker
   on dorsi/plantar flexion of L ankle, although limited d/t waxing/[**Doctor Last Name 533**]
   alertness
   Labs / Radiology
   104 K/uL
   11.8 g/dL
   94 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.7 mEq/L
   10 mg/dL
   108 mEq/L
   143 mEq/L
   37.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2112-4-11**]  02:24 AM
                             [**2112-4-11**]  03:39 AM
   WBC
   7.5
   Hct
   37.9
   Plt
   104
   Cr
   0.9
   TCO2
   35
   Glucose
   94
   Other labs: Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan: 56 y/o F Sjoren's, DM who presents with nausea and
   left flack pain for 6 days duration. Patient found to be somnolent and
   hypercarbic of unclear etiology.
   .
   # Hypercarbia: Patient smoker, mild apically predominant emphysema with
   recent spirometry suggesting mild obstructive ventilatory defect.
   However patient's prior gases do not suggest overwhelming chronic
   retainer. Patient on multiple sedating medications and positive
   barbituates on tox screen. Patient could be hypoventilating due to
   narcotics resulting in retention. No history of OSA. No paradoxical
   abdominal movement to suggest diaphargm paralysis. Most recent gas also
   demontrates hypoxia, could be from hypoventilation, bilateral
   atelactasis and underlying COPD. Carboxyhemoglobin within level of
   smoker. Methemoglobin level 0, which has been tested prior due to prior
   poor correlation of sats.   Pt. mental status became more alert after
   naloxone.  Now saturating well, could consider another dose of
   naloxone, but would not necessarily want to completely reverse her.
   - Sa O2 goal 88-92%
   - Carboxyhemaglobin washout with high flow O2 with NRB
   - Repeat ABG in [**3-16**] hours
   - Hold all sedating medications
   - Consider BiPap if mental status worsens
   - Rheumatology consult to have her attending ([**Doctor Last Name 7314**]) come to see her
   regarding pain management
   - Possible social work consult
   .
   # Nausea, flank pain: Most consistent with urinary tract infection
   versus pyelonephritis. CTA ab/pelvis negative for ischemia or other
   acute abnormality.   Pt. has been straight cathing at home recently.
   - Repeat neuro exam at 12 pm
 consider MRI
   - Place foley
   - DC Ceftriaxone
   - Continuous IVF
   - Follow urine culture
   .
   # Urinary Retention:  Patient recently started self cathing at home.
   Possible etiologies include narcotic use.  Based on immunosuppression
   could have abscess
   - Repeat neuro exam at 12 pm
 consider MRI
   - Place foley
   .
   # Depression/Anxiety: Continue Lexapro 20 mg qd.
   - Hold Buspirone as sedating
   .
   # Hyperlipidemia: Continue Lipitor 40 mg qd.
   .
   # Hypertension: Unclear whether patient is taking clonidine. Currently
   normotensive, consequently will hold.
   .
   # Sjogren's: Continue prednisone 10 mg qd.
   .
   # Diabetes: Insulin sliding scale while in house.
   .
   # Chronic pain: Hold outpatient sedating medications.
   .
   # Med Rec: Confirm medications with pharmacy in am.
   .
   # FEN: Maintenance IVF, replete electrolytes, diabetic diet
   # Prophylaxis: Subcutaneous heparin. Continue outpatient Ranitidine.
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-4-11**] 01:41 AM
   20 Gauge - [**2112-4-11**] 01:41 AM
   Indwelling Port (PortaCath) - [**2112-4-11**] 06:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2112-04-12 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamides)
   Nausea/Vomiting
   Ciprofloxacin
   Nausea/Vomiting
   Methylparaben
   Rash;
   Shellfish
   Nausea/Vomiting
   Paba (Oral) (Aminobenzoic Acid (B Vit))
   Rash;
   Omeprazole
   Headache; migra
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-4-12**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**14**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 60 (50 - 71) bpm
   BP: 154/67(87) {103/47(62) - 172/77(99)} mmHg
   RR: 16 (7 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,085 mL
                                                                    184 mL
   PO:
                                                                    840 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,245 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  2,755 mL
                                                                      0 mL
   Urine:
                                                                  2,725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,330 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.32/60/94.[**Numeric Identifier 126**]/32/2
   NIF: -40 cmH2O
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   124 K/uL
   12.9 g/dL
   87 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.1 mEq/L
   10 mg/dL
   104 mEq/L
   143 mEq/L
   39.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2112-4-11**]  02:24 AM
                             [**2112-4-11**]  03:39 AM
                             [**2112-4-11**]  02:48 PM
                             [**2112-4-12**]  03:29 AM
   WBC
   7.5
   7.9
   Hct
   37.9
   39.7
   Plt
   104
   124
   Cr
   0.9
   0.8
   TCO2
   35
   32
   Glucose
   94
   87
   Other labs: Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   56 y/o F Sjoren's, DM who presents with nausea and left flack pain for
   6 days duration. Patient found to be somnolent and hypercarbic of
   unclear etiology.
   # Hypercarbia: Patient smoker, mild apically predominant emphysema with
   recent spirometry suggesting mild obstructive ventilatory defect.
   However patient's prior gases do not suggest overwhelming chronic
   retainer. Patient on multiple sedating medications and positive
   barbituates on tox screen. Patient could be hypoventilating due to
   narcotics resulting in retention. No history of OSA. No paradoxical
   abdominal movement to suggest diaphargm paralysis. Most recent gas also
   demontrates hypoxia, could be from hypoventilation, bilateral
   atelactasis and underlying COPD. Carboxyhemoglobin within level of
   smoker. Methemoglobin level 0, which has been tested prior due to prior
   poor correlation of sats.   Pt. mental status became more alert after
   naloxone.  Now saturating well, could consider another dose of
   naloxone, but would not necessarily want to completely reverse her.
   - Sa O2 goal 88-92%
   - Carboxyhemaglobin washout with high flow O2 with NRB
   - Repeat ABG in [**3-16**] hours
   - Hold all sedating medications
   - Consider BiPap if mental status worsens
   - Rheumatology consult to have her attending ([**Doctor Last Name 7314**]) come to see her
   regarding pain management
   - Possible social work consult
   # Nausea, flank pain: Most consistent with urinary tract infection
   versus pyelonephritis. CTA ab/pelvis negative for ischemia or other
   acute abnormality.   Pt. has been straight cathing at home recently.
   - Repeat neuro exam at 12 pm
 consider MRI
   - Place foley
   - DC Ceftriaxone
   - Continuous IVF
   - Follow urine culture
   # Urinary Retention:  Patient recently started self cathing at home.
   Possible etiologies include narcotic use.  Based on immunosuppression
   could have abscess
   - Repeat neuro exam at 12 pm
 consider MRI
   - Place foley
   # Depression/Anxiety: Continue Lexapro 20 mg qd.
   - Hold Buspirone as sedating
   # Hyperlipidemia: Continue Lipitor 40 mg qd.
   # Hypertension: Unclear whether patient is taking clonidine. Currently
   normotensive, consequently will hold.
   # Sjogren's: Continue prednisone 10 mg qd.
   # Diabetes: Insulin sliding scale while in house.
   # Chronic pain: Hold outpatient sedating medications.
   # Med Rec: Confirm medications with pharmacy in am.
   # FEN: Maintenance IVF, replete electrolytes, diabetic diet
   # Prophylaxis: Subcutaneous heparin. Continue outpatient Ranitidine.
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-4-11**] 01:41 AM
   20 Gauge - [**2112-4-11**] 01:41 AM
   Indwelling Port (PortaCath) - [**2112-4-11**] 06:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: